US03954852
D. 4-chloro-5'-fluoro-2'-formylbiphenyl
67 gm. of bromine is added slowly to a stirred solution of 46.9 gm. of 4-chloro-5'-fluoro-2'-methylbiphenyl wwhile being illuminated. The temperature is kept between 105° - 110° C for 1 hour. 120 ml. of water and 90 g. of calcium carbonate is then added to this product with stirring at reflux for 20 hours. The organics are extracted with chloroform (400 ml.) and the chloroform washed with water, separated and dried (MgSO4). The chloroform solution is evaporated to a solid which is recrystallized from hexane.

reactant | bromine | BrBr | Br2
reactant | 4-chloro-5'-fluoro-2'-methylbiphenyl | ClC1=CC=C(C=C1)C1=C(C=CC(=C1)F)C | C13H10ClF
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | water | O | H2O
product | 4-chloro-5'-fluoro-2'-formylbiphenyl | ClC1=CC=C(C=C1)C1=C(C=CC(=C1)F)C=O | C13H8ClFO
